US07906528B2
Thionyl chloride (0.3 mL, excess) is added dropwise to a solution of 5-tert-butyl-2-methoxy-benzoic acid (30 mg, 0.2 mmol) in CH2Cl2 (1 mL) at room temperature. The mixture is heated to 60° C. for 1.5 hours. The solvent is removed to dryness. A solution of 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (10 mg, 0.04 mmol) and N,N-diisopropylethylamine (0.2 mL, excess) in THF (1 mL) is added to the residue. The mixture is stirred at room temperature for 16 hours. The solvent is removed to dryness in vacuo. The crude product is purified by PTLC and eluted with 20% EtOAc in hexane to give 12 mg of (5-tert-butyl-2-methoxy-phenyl)-[5-(2,6-diethyl-phenyl)-pyrrolo-[2,3-c]pyridine-1-yl]-methanone. 1H NMR (CDCl3) 7.56-6.98 (m, 9H), 6.60-6.58 (d, 1H), 3.81 (s, 3H), 2.41-2.24 (q, 4H), 1.31 (s, 9H), 1.08-1.00 (t, 3H).

reactant | Thionyl chloride | 0.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-tert-butyl-2-methoxy-benzoic acid | 0.2 mmol, 30 mg | C(C)(C)(C)C=1C=CC(=C(C(=O)O)C1)OC | C12H16O3
reactant | 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 0.04 mmol, 10 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)NC=C2 | C17H18N2
reactant | N,N-diisopropylethylamine | 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (5-tert-butyl-2-methoxy-phenyl)-[5-(2,6-diethyl-phenyl)-pyrrolo-[2,3-c]pyridine-1-yl]-methanone | 12 mg | C(C)(C)(C)C=1C=CC(=C(C1)C(=O)N1C=CC=2C1=CN=C(C2)C2=C(C=CC=C2CC)CC)OC | C29H32N2O2
